US08026236B2
Acetyl chloride (0.010 ml) was added dropwise to a solution of 6-(4-(3-(cyclopropylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (20 mg) and diisopropylethylamine (0.042 ml) in THF (2 ml). The reaction mixture was stirred at room temperature for 1 hour. The product was then purified by acidic prep HPLC to give 6-{4-[3-(N-acetyl-N-cyclopropylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile.

reactant | Acetyl chloride | 0.010 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-(4-(3-(cyclopropylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 20 mg | C1(CC1)NCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2)C(F)(F)F | C20H18F3N5O
reactant | diisopropylethylamine | 0.042 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-{4-[3-(N-acetyl-N-cyclopropylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)(=O)N(C1CC1)CCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C23H22F3N5O2
